US04482496
390 g of 4-bromomethylcinnamonitrile are suspended in 600 ml of trimethylphosphite and the suspension is added in portions to 250 ml of well stirred trimethylphosphite of 90° C., such that the strongly exothermic reaction can be kept under control. Excess trimethylphosphite is then distilled off under a water jet vacuum and 330 ml of toluene and 660 ml of hexane are added to the residue, which is cooled to 0° C. The crystallised product is filtered with suction and vacuum dried at 50° C., affording 427 g of 4-(dimethoxyphosphorylmethylphenyl)cinnamonitrile with a melting point of 98°-101° C.

reactant | 4-bromomethylcinnamonitrile | 390 g | BrCC1=CC=C(C=CC#N)C=C1 | C10H8BrN
reactant | trimethylphosphite | 600 ml | COP(OC)OC | C3H9O3P
product | 4-(dimethoxyphosphorylmethylphenyl)cinnamonitrile | 427 g | COP(=O)(OC)CC1=C(C=CC=C1)C1=CC=C(C=CC#N)C=C1 | C18H18NO3P
